US09255089B2
A solution of 5-bromo-6-(trifluoromethoxy)quinoline (obtained by bromination of 6-trifluoromethoxyquinoline) (50 mg, 0.17 mmol), 6-(3,5-dimethylisoxazol-4-yl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-benzo[d]imidazol-2(3H)-one (91 mg, 0.26 mmol), dichloro 1,1-bis(diphenylphosphino)ferrocene palladium(II) dichloromethane (12.7 mg, 0.02 mmol), 1,8-diazabicyclo[5.4.0]undec-7-ene (0.2 mL, 1.37 mmol), DMSO (0.2 mL) and water (0.2 mL) under nitrogen was heated at 120° C. for 1 h. The reaction mixture was filtered and purified by reverse-phase HPLC to give 6-(3,5-dimethylisoxazol-4-yl)-4-(6-(trifluoromethoxy)quinolin-5-yl)-1H-benzo[d]imidazol-2(3H)-one.

reactant | 5-bromo-6-(trifluoromethoxy)quinoline | 0.17 mmol, 50 mg | BrC1=C2C=CC=NC2=CC=C1OC(F)(F)F | C10H5BrF3NO
reactant | 6-(3,5-dimethylisoxazol-4-yl)-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-benzo[d]imidazol-2(3H)-one | 0.26 mmol, 91 mg | CC1=NOC(=C1C=1C=C(C2=C(NC(N2)=O)C1)B1OC(C(O1)(C)C)(C)C)C | C18H22BN3O4
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 1.37 mmol, 0.2 mL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | DMSO | 0.2 mL | CS(=O)C | C2H6OS
solvent | water | 0.2 mL | O | H2O
product | 6-(3,5-dimethylisoxazol-4-yl)-4-(6-(trifluoromethoxy)quinolin-5-yl)-1H-benzo[d]imidazol-2(3H)-one | CC1=NOC(=C1C=1C=C(C2=C(NC(N2)=O)C1)C1=C2C=CC=NC2=CC=C1OC(F)(F)F)C | C22H15F3N4O3
